US07259183B2
To a solution of 1,4-dibromobenzene (1.00 g, 4.24 mmol) at −78° C. in ether (20 ml) was added n-BuLi (2.65 ml, 1.6 M solution in hexane, 4.24 mmol) and the reaction mixture was stirred at −78° C. for 30 min. Cyclobutanone (348 μl, 4.66 mmol) was then added and the reaction mixture was stirred at −78° C. for 15 min. The reaction mixture was then slowly (over 2 h) warmed to 0° C. and stirred for a further 1 h. Water was added followed by sat. NH4Cl and the reaction mixture was extracted with ether. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated in vacuo to give a residue which was purified by flash column chromatography (1:4 ether:pentane) to give 1-(4-bromophenyl)-cyclobutanol (330 mg, 34%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 7.50 (d, J=8.5 Hz, 2H), 7.38 (d, J=8.5 Hz, 2H), 2.57-2.48 (m, 2H), 2.41-2.31 (m, 2H), 2.02 (m, 1H), 1.69 (m, 1H).

reactant | 1,4-dibromobenzene | 4.24 mmol, 1.00 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-BuLi | 4.24 mmol, 1.6 M, 2.65 ml | [Li]CCCC
reactant | Cyclobutanone | 4.66 mmol, 348 μl | C1(CCC1)=O | C4H6O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | Water | O | H2O
product | 1-(4-bromophenyl)-cyclobutanol | 330 mg, 34% | BrC1=CC=C(C=C1)C1(CCC1)O | C10H11BrO
